US07176242B2
To hexanal (1.02 g, 10.2 mmol) in 15 mL of isopropyl alcohol-water (4:1 v/v) was added CuCl2 (1.37 g, 10.2 mmol). The mixture was heated at 80° C. for 2.5 h, then cooled. The solids were removed by filtration and the filtrate was added to 6-aminonicotinic acid (1.35 g, 10 mmol). The mixture was stirred overnight at room temperature, then heated at reflux 32 h. After cooling, the solvents were removed under reduced pressure and MeOH was added to the residue. The resulting solid was removed by filtration and the filtrate was concentrated to dryness. MeOH was again added, and the resulting solid removed by filtration. After concentration of the filtrate, the residue was chromatographed on silica gel using MeOH-dichloromethane (33/67) to give 0.26 g of 3-butylimidazo[1,2-a]pyridine-6-carboxylic acid.

reactant | hexanal | 10.2 mmol, 1.02 g | C(CCCCC)=O | C6H12O
reactant | 6-aminonicotinic acid | 10 mmol, 1.35 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
solvent | isopropyl alcohol water | 15 mL | C(C)(C)O.O
product | 3-butylimidazo[1,2-a]pyridine-6-carboxylic acid | 0.26 g | C(CCC)C1=CN=C2N1C=C(C=C2)C(=O)O | C12H14N2O2
